US06949648B2
3-Ethyl-1-(2-pyridinyl)-1H-pyrazol-5-ylamine
To an ice-cold solution of 3-oxopentanenitrile (14.6 g, 150 mmol) and 2-hydrazinopyridine (13.6 g, 125 mmol) in ethanol (150 mL), acetic acid (14.3 mL, 250 mmol) was added and the resulting mixture was heated under reflux for 5 hours. The solution was allowed to cool to room temperature, and concentrated under reduced pressure, and water was added to the residue. The solution was made basic by the addition of an aqueous sodium hydroxide solution, and the organic matter was extracted with ethyl acetate. The extract was washed with saturated brine and water, and dried over anhydrous sodium sulfate, and the solvent was evaporated under reduced pressure. The residue thus obtained was purified by silica gel column chromatography (hexane:ethyl acetate=4:1) to give the title compound (21.1 g, 90% yield). NMR (CDCl3) δ: 1.25 (3H, t, J=7.6 Hz), 2.59 (2H, q, J=7.6 Hz), 5.38 (1H, s), 5.90 (2H, br s), 7.04 (1H, ddd, J=1.2 Hz, 5.0 Hz, 7.4 Hz), 7.75 (1H, ddd, J=2.0 Hz, 7.4 Hz, 8.4 Hz), 7.94 (1H, ddd, J=0.8 Hz, 1.2 Hz, 8.4 Hz), 8.29 (1H, ddd, J=0.8 Hz, 2.0 Hz, 5.0 Hz).

reactant | 3-oxopentanenitrile | 150 mmol, 14.6 g | O=C(CC#N)CC | C5H7NO
reactant | 2-hydrazinopyridine | 125 mmol, 13.6 g | N(N)C1=NC=CC=C1 | C5H7N3
reactant | acetic acid | 250 mmol, 14.3 mL | C(C)(=O)O | C2H4O2
solvent | ethanol | 150 mL | C(C)O | C2H6O
product | 3-Ethyl-1-(2-pyridinyl)-1H-pyrazol-5-ylamine | 21.1 g, 90% yield | C(C)C1=NN(C(=C1)N)C1=NC=CC=C1 | C10H12N4
